US04006155
ACETYLCYCLOHEXYL DISULFIDE
Thioacetic acid, 0.044 moles, 3.35 grams, is reacted with N-(cyclohexylthio)phthalimide in 100 ml of benzene and the product recovered following a procedure similar to Example 11. Acetylcyclohexyl disulfide, an amber oil, is recovered in 98% yield (7.5 grams). Analysis gives 51.27%C, 7.41%H and 31.78%S compared to 50.6%C, 7.38%H and 33.7%S calculated for C8H14OS2.

reactant | Thioacetic acid | C(C)(=S)O | C2H4OS
reactant | N-(cyclohexylthio)phthalimide | C1(CCCCC1)SN1C(C=2C(C1=O)=CC=CC2)=O | C14H15NO2S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | ACETYLCYCLOHEXYL DISULFIDE | 98% yield | C(C)(=O)SSC1CCCCC1 | C8H14OS2
